US04028344
Preparation of 1-t-Butylazo-1-(ethoxycarbonylamino)cyclohexane
To 50 ml of ethanol in a 125 ml erlenmeyer flask stirred with a magnetic stirrer, was slowly added 2.1 grams (0.05 moles) of 57% sodium hydride. After the temperature came back to 25° C., 10.5 grams (0.05 moles) of 1-t-butylazo-1-isocyanatocyclohexane was added dropwise over 5 minutes. After the addition was complete, the reaction was stirred an additional 30 minutes at room temperature. Gas chromatography indicated that the 1-t-butylazo-1-isocyanatocyclohexane had reacted almost immediately. The reaction mixture was poured into 300 ml water and the product extracted with 100 ml pentane. The pentane extract was separated, washed with water, 10% NaHCO3 solution, dried over anhydrous Na2SO4, filtered and the pentane evaporated under reduced pressure to leave 10.3 grams (80.5% crude yield) of a yellow liquid. The product had a strong carbonyl band at 1730 cm-1 and a sharp NH band at 3400 cm-1 in its infrared spectrum and the isocyanate band at 2225 cm-1 was absent.

reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydride | 0.05 moles, 2.1 grams | [H-].[Na+]
reactant | 1-t-butylazo-1-isocyanatocyclohexane | 0.05 moles, 10.5 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=O | C11H19N3O
reactant | isocyanate | [N-]=C=O
solvent | water | 300 ml | O | H2O
product | 1-t-Butylazo-1-(ethoxycarbonylamino)cyclohexane | C(C)(C)(C)N=NC1(CCCCC1)NC(=O)OCC | C13H25N3O2
